US05348964
Dissolve 5-chloropentyl isopentyl sulfide (1.0 g, 5.39 mmol) in methylene chloride (25 mL), place under nitrogen atmosphere and cool to -20° C. Add, by dropwise addition, a solution of meta-chloroperbenzoic acid (930 mg, 5.39 mmol) in methylene chloride (25 mL). Stir overnight at room temperature. Add additional meta-chloroperbenzoic acid (930 mg). Stir briefly and filter. Treat with aqueous sodium metabisulfite (until negative starch-iodide test) and separate the layers. Wash the organic phase with saturated sodium hydrogen carbonate until basic and dry (MgSO4). Evaporate the solvent in vacuo to yield a yellow oil. Purify by silica gel chromatography (50% ethyl acetate/hexane) to yield 750 mg of 5-chloropentyl isopentyl sulfoxide as a clear oil; MS (CI/CH4) m/z 225(M+1), 189 (M+1-HCl).

reactant | 5-chloropentyl isopentyl sulfide | 5.39 mmol, 1.0 g | C(CC(C)C)SCCCCCCl | C10H21ClS
reactant | meta-chloroperbenzoic acid | 5.39 mmol, 930 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | meta-chloroperbenzoic acid | 930 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 5-chloropentyl isopentyl sulfoxide | 750 mg | C(CC(C)C)S(=O)CCCCCCl | C10H21ClOS
